US08222424B2
3-(4-Methoxy-benzoyl)-benzenesulfonyl chloride
Under a nitrogen atmosphere, aluminum chloride (7.5 g, 56.5 mmol) is slurried in dichloromethane (150 mL) then 3-chlorosulfonyl-benzoyl chloride (7.5 g, 31.4 mmol) is added and allowed to stir at ambient temperature for 10 minutes. Anisole (4.06 g, 37.65 mmol) is added. The reaction is allowed to stir at ambient temperature for 18 hours. The reaction mixture is poured over ice-cold 6 N HCl and extracted with dichloromethane to give a purple oil. Purification by silica gel chromatography (10% ethyl acetate in hexanes) yielded 4 g (41% yield) of the title compound as a yellow powder. 1H NMR (CDCl3): δ 8.5 (t, 1H, J=1.7 Hz), 8.25 (m, 1H), 8.1 (m, 1H), 7.7-7.9 (m, 3H), 7.0 (d, 2H, J=6.9 Hz), 3.9 (s, 3H).

reactant | aluminum chloride | 56.5 mmol, 7.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-chlorosulfonyl-benzoyl chloride | 31.4 mmol, 7.5 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | Anisole | 37.65 mmol, 4.06 g | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 3-(4-Methoxy-benzoyl)-benzenesulfonyl chloride | 4 g, 41% yield | COC1=CC=C(C(=O)C=2C=C(C=CC2)S(=O)(=O)Cl)C=C1 | C14H11ClO4S
